US07173148B2
In an argon gas atmosphere, a three necked flask having a capacity of 25 ml was charged with 1.92 g (10 m moles) of 3,3-diacetoxy-2-methylpropene having a purity degree of 89.6% by mass and 13.82 g (100 m moles) of hydroquinone dimethylether. Then, the resultant mixture was mixed with 0.14 g (1 m mole) of boron trifluoride-diethyl ether complex at an internal temperature of 54° C. over a time of one minute. The mixture was stirred at an internal temperature of 53 to 54° C. for one hour to cause the mixed compounds to react with each other. After the reaction was completed, the resultant reaction liquid was mixed with 150 ml of ethyl acetate and washed two times with 20 ml of saturated aqueous sodium chloride solution. The resultant reaction liquid was subjected to a layer separation treatment, the resultant organic layer was distilled under reduced pressure (20 mmHg, 55 to 57° C.), the resultant residue was refined by a chromatography on silica gel using an eluting solvent:hexane/ethyl acetate mixture in a mixing ratio by volume of 10/1. As a colorless liquid fraction, the target 1-acetoxy-2-methyl-3-(2,5-dimethoxyphenyl)propene was obtained in a yield of 77.4% in an amount of 1.94 g in the form of a colorless solid.

reactant | 3,3-diacetoxy-2-methylpropene | 1.92 g | C(C)(=O)OC(C(=C)C)OC(C)=O | C8H12O4
reactant | hydroquinone dimethylether | 13.82 g | COC1=CC=C(OC)C=C1 | C8H10O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-acetoxy-2-methyl-3-(2,5-dimethoxyphenyl)propene | yield of 77.4% | C(C)(=O)OC=C(CC1=C(C=CC(=C1)OC)OC)C | C14H18O4
